US08530665B2
(R)-(E)-2-(4-(2-(5-(1-(3,5-Dichloropyridin-4-yl)ethoxy)-1H-indazol-3-yl)vinyl)-1H-pyrazol-1-yl)ethanol
Charge a 3-neck, 250 mL round bottom flask equipped with an addition funnel, nitrogen inlet, internal temperature probe and magnetic stirrer with methanol (57 mL) and cool in an ice bath. To the resulting solution, add acetyl chloride (20 mL, 281.03 mmol) slowly through an addition funnel. To the solution, add 5-((R)-1-(3,5-dichloropyridin-4-yl)ethoxy)-1-(tetrahydro-2H-pyran-2-yl)-3-((E)-2-(1-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)-1H-pyrazol-4-yl)vinyl)-1H-indazole (7.1 g, 11.59 mmol) dissolved in methanol (40 mL) via addition funnel. After addition is complete, remove the ice bath, warm to RT and stir the mixture for 4 hours. Concentrate the reaction mixture in vacuo to a yellow foam. Dissolve the yellow foam in methanol (10 mL) and add slowly to a saturated aqueous sodium bicarbonate solution (120 mL). Stir the mixture at RT for 30 minutes. Filter the mixture, wash the solid with water (100 mL), and dry under vacuum. Recrystallize the solid from hot EA/methanol/hexanes to give the title compound as a white solid. Yield: 2.1 g (41%). MS (ES) m/z 444 [M+1]+.

reactant | acetyl chloride | 281.03 mmol, 20 mL | C(C)(=O)Cl | C2H3ClO
reactant | 5-((R)-1-(3,5-dichloropyridin-4-yl)ethoxy)-1-(tetrahydro-2H-pyran-2-yl)-3-((E)-2-(1-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)-1H-pyrazol-4-yl)vinyl)-1H-indazole | 11.59 mmol, 7.1 g | ClC=1C=NC=C(C1[C@@H](C)OC=1C=C2C(=NN(C2=CC1)C1OCCCC1)\C=C\C=1C=NN(C1)CCOC1OCCCC1)Cl | C31H35Cl2N5O4
solvent | methanol | 40 mL | CO | CH4O
solvent | methanol | 57 mL | CO | CH4O
product | (R)-(E)-2-(4-(2-(5-(1-(3,5-Dichloropyridin-4-yl)ethoxy)-1H-indazol-3-yl)vinyl)-1H-pyrazol-1-yl)ethanol | ClC=1C=NC=C(C1[C@@H](C)OC=1C=C2C(=NNC2=CC1)/C=C/C=1C=NN(C1)CCO)Cl | C21H19Cl2N5O2
